US04331666
3-[(8-carboxy-6-tetrazolo[1,5-b]pyridazinyl)-thiomethyl]-7-[2-(2-amino-4-thiazolyl)-2-methoxyiminoacetamido]-3-cephem-4-carboxylic acid (syn-isomer)
To a stirred solution of 3-acetoxymethyl-7-[2-(2-amino-4-thiazolyl)-2-methoxyiminoacetamido]-3-cephem-4-carboxylic acid (syn-isomer) (0.456 g, 0.001 mole) and NaHCO3 (0.143 g, 0.0017 mole) in water (10 ml), 8-carboxy-6-mercapto-tetrazolo[1,5-b]pyridazine (0.138 g, 0.0007 mole) was added. A slow stream of nitrogen was passed through the solution, and the mixture was heated at 50° C. for 12 hours, while keeping the pH at 6.8. After cooling, the solution was acidified with 10% HCl, the precipitate collected by filtration, washed with water and then with ethanol. There was thus obtained 0.245 g of the title compound which was shown by N.M.R., T.L.C. and I.R. to be identical to the product described in Example 4, apart a minor contaminant of the anti-isomer.

reactant | 3-acetoxymethyl-7-[2-(2-amino-4-thiazolyl)-2-methoxyiminoacetamido]-3-cephem-4-carboxylic acid | 0.001 mole, 0.456 g | C(C)(=O)OCC=1CS[C@H]2N(C1C(=O)O)C(C2NC(C(=NOC)C=2N=C(SC2)N)=O)=O | C16H17N5O7S2
reactant | NaHCO3 | 0.0017 mole, 0.143 g | C(=O)(O)[O-].[Na+]
reactant | 8-carboxy-6-mercapto-tetrazolo[1,5-b]pyridazine | 0.0007 mole, 0.138 g | C(=O)(O)C=1C=2N(N=C(C1)S)N=NN2 | C5H3N5O2S
reactant | HCl | Cl | ClH
solvent | water | 10 ml | O | H2O
product | 3-[(8-carboxy-6-tetrazolo[1,5-b]pyridazinyl)-thiomethyl]-7-[2-(2-amino-4-thiazolyl)-2-methoxyiminoacetamido]-3-cephem-4-carboxylic acid | C(=O)(O)C=1C=2N(N=C(C1)SCC=1CS[C@H]3N(C1C(=O)O)C(C3NC(C(=NOC)C=3N=C(SC3)N)=O)=O)N=NN2 | C19H16N10O7S3
